US05602250
b) 6,7-Dihydro-5H-imidazo[2,1-b][1,3]thiazine-2-carboxaldehyde
Ethyl 6,7-dihydro-5H-imidazo[2,1-b][1,3]thiazine-2-carboxylate (2.12 g, 10 mmol) was dissolved in dry dichloromethane (40 ml) under argon and cooled to -70° C. Diisobutylaluminium hydride (1.5M in toluene, 12 ml, 18 mmol) was added below -68° C. and the reaction mixture stirred at -70° C. for 1 h. Water was added carefully and the cooling removed. The reaction mixture was stirred vigorously at ambient temperature for 15 minutes and Celite (2 g) added. The mixture was filtered through Celite, the filter bed washed with dichloromethane and water, the filtrate and the washings combined and evaporated to dryness under reduced pressure. The residue was evaporated from ethanol (2×) to give the title compound as a white solid (1.31 g, 78%); νmax (CH2Cl2) 1685, 1543 and 1453 cm-1 ; δH (250 MHz; CDCl3) 2.34-2.43 (2H, m), 3.20 (2H, t, J 6 Hz), 4.17 (2H, t, J 6 Hz), 7.58 (1H, s), 9.75 (1H, s).

reactant | Ethyl 6,7-dihydro-5H-imidazo[2,1-b][1,3]thiazine-2-carboxylate | 10 mmol, 2.12 g | N=1C(=CN2C1SCCC2)C(=O)OCC | C9H12N2O2S
reactant | Diisobutylaluminium hydride | 18 mmol, 1.5M, 12 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Water | O | H2O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 6,7-Dihydro-5H-imidazo[2,1-b][1,3]thiazine-2-carboxaldehyde | 1.31 g, 78% | N=1C(=CN2C1SCCC2)C=O | C7H8N2OS
